US07612108B2
In a mixed solution of 10 ml of 1,4-dioxane and 5 ml of a 1 M aqueous sodium carbonate solution were dissolved 0.31 g of (3-cyano-4-isobutoxyphenyl)boronic acid, 267 mg of 5-(5-bromo-2-thienyl)-1H-tetrazole, and 0.56 g of triphenylmethane chloride, and the solution was heated at 100° C. for 1.5 hours in the presence of 0.11 g of tetrakis-(triphenylphosphine)palladium. The reaction solution was diluted with water and ethyl acetate and then filtrated through celite. Conc. hydrochloric acid was added to the filtrate to make the solution pH=1, and the solution was stirred for 10 minutes. The solution was neutralized and extracted with a 1 M aqueous sodium hydroxide solution and the resulting aqueous layer was acidified with 1 M hydrochloric acid. Extraction with ethyl acetate was conducted and the resulting organic layer was washed with brine, followed by drying and concentration under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:THF:methanol:acetic acid=88.9:10:1:0.1) and then recrystallized from a mixed solvent (chloroform:THF:methanol:acetic acid=88.9:10:1:0.1) to obtain 52 mg of 2-isobutoxy-5-[5-(lH-tetrazol-5-yl)-2-thienyl]benzonitrile.

reactant | (3-cyano-4-isobutoxyphenyl)boronic acid | 0.31 g | C(#N)C=1C=C(C=CC1OCC(C)C)B(O)O | C11H14BNO3
reactant | 5-(5-bromo-2-thienyl)-1H-tetrazole | 267 mg | BrC1=CC=C(S1)C1=NN=NN1 | C5H3BrN4S
reactant | triphenylmethane chloride | 0.56 g | [Cl-].C1(=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | sodium carbonate | 1 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-isobutoxy-5-[5-(lH-tetrazol-5-yl)-2-thienyl]benzonitrile | 52 mg | C(C(C)C)OC1=C(C#N)C=C(C=C1)C=1SC(=CC1)C1=NN=NN1 | C16H15N5OS
